* J:\Courses\ECEN_240\Lab13Schematic.asc
XU1 0 N002 P001 P002 N003 LT1001
V1 N001 0 AC 1V
V2 P001 0 14
V3 0 P002 14
R1 P003 N001 4700
R2 N002 P003 {1+Rtotal*position}
R3 P004 N002 {1+Rtotal*(1-position)}
R4 N003 P004 4700
C2 N003 N002 100nF
C1 N002 N001 100nF
.param Rtotal = 10k
.step param position 0 1 .1
.ac dec 101 10 100000
.lib LTC.lib
.backanno
.end
